US06713473B1
Under ice cooling, 5.29 g of aminoethylthioethylamine was added dropwise with 120 mL of acetonitrile solution in which 1.00 g of 1-naphthalenesulfonyl chloride was dissolved, and the mixture was stirred at room temperature for two days. The reaction mixture was evaporated under reduced pressure, and then the residue was added with 500 mL of water and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure to obtain 1.50 g of 1-naphthalenesulfonylaminoethylthioethylamine.

reactant | aminoethylthioethylamine | 5.29 g | NCCSCCN | C4H12N2S
reactant | 1-naphthalenesulfonyl chloride | 1.00 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | acetonitrile | 120 mL | C(C)#N | C2H3N
product | 1-naphthalenesulfonylaminoethylthioethylamine | 1.50 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NC(C)SCCN | C14H18N2O2S2
